* source AMP
R_R1         N14592 N14567 5k
V_V1         N14606 N14550 DC 1v  
X_U1         N14592 N14550 +12V 0 N14567 LM741
R_R2         0 N14567 10k
R_R3         N14592 N14606 1k
